US04304728
A solution of concentrated hydrochloric acid (0.2 ml) in ethanol (20 ml) was added to a stirred refluxing suspension of 2-[2-(4-nitrophenyl)-ethenyl]-6-phenyl-4H-pyran-4-one (8.5 g) and iron powder (4.5 g) in ethanol (80 ml) and water (20 ml). The stirred mixture was heated under reflux for 5 hours, adding further concentrated hydrochloric acid (0.2 ml) after 2 hours. The hot mixture was filtered and the filtrate was evaporated under vacuum. The solid residue was crystallised from chloroform-petroleum ether 60°-80°0 C. to give 2-[2-(4-aminophenyl)-ethenyl]-6-phenyl-4H-pyran-4-one (mp 192°-194° C.).

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 2-[2-(4-nitrophenyl)-ethenyl]-6-phenyl-4H-pyran-4-one | 8.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC=1OC(=CC(C1)=O)C1=CC=CC=C1 | C19H13NO4
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
catalyst | iron | 4.5 g | [Fe] | Fe
product | 2-[2-(4-aminophenyl)-ethenyl]-6-phenyl-4H-pyran-4-one | NC1=CC=C(C=C1)C=CC=1OC(=CC(C1)=O)C1=CC=CC=C1 | C19H15NO2
